US04845233
Synthesis of 1-Methyl-3-hydroxymethyl-4-imidazolin-2-one
A mixture of 1-methyl-4-imidazolin-2-one (4 gms, 0.04 mol), 20 ml of formaldehyde (37% aqueous solution), sodium hydroxide (100 mg), and 20 ml of methanol was stirred at room temperature for 20 hours. After removing the solvent using a rotovap at reduced pressure, a liquid residue was obtained and filtered through a column of silica gel using chloroform as the eluent. The residue solidified after left standing overnight and was dissolved in water and then extracted with chloroform. The aqueous phase was concentrated and chromatographed through a column of silica gel G 60. Removal of the solvent afforded a solid which upon addition of acetone became white suspension. The solid was washed twice with acetone and air-dried (1.0 gm, 22%) and sublimed at reduced pressure, m.p. 101.5°-103.5° C. Found: C, 46.70; H, 6.18: N, 21.80. Calc. for C5H8N2O2 : C, 46.87; H, 6.29; N, 21.86%. 1H n.m.r.(CDCl3 ): δ3.15(3H, s, CH3N--); 5.02(2H, s, broad, N-CH2OH); 5.8(1H, s, broad, OH); 6.1 (1H, d, J=3 Hz, HC-CH); 6.3(1H, d, J=3 Hz, HC=CH). νmax (KBr): 3220(OH, broad); 3120, 3100(HC=CH); 1655 cm-1 (C=O). m/e 128, C5H8N2O2 requires 128.

reactant | 1-methyl-4-imidazolin-2-one | 0.04 mol, 4 gms | CN1C(NC=C1)=O | C4H6N2O
reactant | formaldehyde | 20 ml | C=O | CH2O
reactant | sodium hydroxide | 100 mg | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
product | 1-Methyl-3-hydroxymethyl-4-imidazolin-2-one | CN1C(N(C=C1)CO)=O | C5H8N2O2
